US05466704
B. 1-(4-Methylphenyl)-1H-indole-3-carboxylic acid, methyl ester
The title A indole (819 mg, 4.67 mmol, 1.0 eq.) and 4-bromotoluene (1.44 ml, 11.69 mmol, 2.5 eq.) were dissolved in pyridine (4.7 ml, 1M) in an argon atmosphere. Copper(I) oxide (668 mg, 4.67 mmol, 1.0 eq.) was added and heated at 130°±5° C. for 8.5 hours. Ethyl acetate was added and the solid was removed by filtration through celite. The filtrate was washed with water (3×40 ml), 0.5N hydrochloric acid (2×50 ml) and saturated sodium hydrogen carbonate solution (40 ml), dried over anhydrous magnesium sulfate and freed of solvent in vacuo. The remaining brown oil was chromatographed on silica gel, eluting with 10% ether in hexane to give the title B compound (1.165 g).

reactant | indole | 4.67 mmol, 819 mg, 1.0 eq. | N1C=CC2=CC=CC=C12 | C8H7N
reactant | 4-bromotoluene | 11.69 mmol, 1.44 ml, 2.5 eq. | BrC1=CC=C(C=C1)C | C7H7Br
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 1M, 4.7 ml | N1=CC=CC=C1 | C5H5N
catalyst | Copper(I) oxide | 4.67 mmol, 668 mg, 1.0 eq. | [Cu-]=O
product | 1-(4-Methylphenyl)-1H-indole-3-carboxylic acid, methyl ester | 1.165 g | CC1=CC=C(C=C1)N1C=C(C2=CC=CC=C12)C(=O)OC | C17H15NO2
